US06103910
c) 1-[6-(2-Carboxy-pyrrol-1-yl)-6-oxo-hexanoyl]-1 H-pyrrole-2-carboxylic acid
To a stirred solution of 55 mg (0.12 mmol) 1-[6-(2-tert-butoxycarbonyl-pyrrol-1-yl)-6-oxo-hexanoyl]-1H-pyrrole-2-carboxylic acid tert-butyl ester in 8 ml dichloromethane at 0° C. was added dropwise 0.15 ml (1.97 mmol) trifluoroacetic acid and stirring continued for 16 h at room temperature. Concentration in vacuo and azeotroping three times with chloroform on a rotary evaporator afforded 39 mg (95%) of the title compound as an off-white crystalline solid.

reactant | 1-[6-(2-tert-butoxycarbonyl-pyrrol-1-yl)-6-oxo-hexanoyl]-1H-pyrrole-2-carboxylic acid tert-butyl ester | 0.12 mmol, 55 mg | C(C)(C)(C)OC(=O)C=1N(C=CC1)C(CCCCC(=O)N1C(=CC=C1)C(=O)OC(C)(C)C)=O | C24H32N2O6
reactant | trifluoroacetic acid | 1.97 mmol, 0.15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 1-[6-(2-Carboxy-pyrrol-1-yl)-6-oxo-hexanoyl]-1 H-pyrrole-2-carboxylic acid | 39 mg, 95% | C(=O)(O)C=1N(C=CC1)C(CCCCC(=O)N1C(=CC=C1)C(=O)O)=O | C16H16N2O6
